US07074800B1
To a solution of 7-hydroxy-4-(1H-indol-5-yloxy)-6-methoxyquinazoline (1 g, 3.2 mmol), (prepared as described for the starting material in Example 107), in DMF (50 ml) was added powdered potassium carbonate (1.32 g, 9.6 mmol) and 1,3-dibromopropane (6.43 g, 32 mmol). The reaction was heated at 50° C. for 2 hours. The inorganic material was filtered off and then the DMF removed. The residue was partitioned between methylene chloride/water. The organics were separated, dried over MgSO4, filtered, evaporated in vacuo and purified by flash chromatography eluting from methylene chloride to 5% methanol/95% methylene chloride. The product was concentrated in vacuo, triturated with ether and the resulting solid filtered to give 7-(3-bromopropoxy)-4-(1H-indol-5-yloxy)-6-methoxyquinazoline (900 mg, 66%) as a white solid.

reactant | 7-hydroxy-4-(1H-indol-5-yloxy)-6-methoxyquinazoline | 3.2 mmol, 1 g | OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC | C17H13N3O3
reactant | potassium carbonate | 9.6 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 32 mmol, 6.43 g | BrCCCBr | C3H6Br2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-(3-bromopropoxy)-4-(1H-indol-5-yloxy)-6-methoxyquinazoline | 900 mg, 66% | BrCCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC | C20H18BrN3O3
